US06200957B1
Step 2D [2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxoethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-[4-(pyridin-3yl)butyl]carbamic acid benzyl ester
A mixture of of 92.7 mg (0.15 mmol) of 2-[3-[2-[benzyloxycarbonyl-[4-(pyridin-3-yl)butyl]amino]ethyl]-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid, 80.2 mg (0.6 mmol) of 7-azabicyclo[2.2.1]heptane hydrochloride, 83.2 mg (0.16 mmol) of PyBOP reagent, 0.107 mL (77.8 mg; 0.77 mmol) of triethylamine, and 0.75 mL of dry methylene chloride was stirred at room temperature in a stoppered flask for 48 hours. The solution was then partitioned between 10 mL of ethyl acetate and 10 mL of 0.5 N hydrochloric acid. The organic phase was washed with 10 mL of saturated aqueous sodium bicarbonate solution and then with 5 mL of saturated aqueous sodium chloride solution. The ethyl acetate phase was then dried (magnesium sulfate), filtered, and concentrated in vacuo at room temperature. The residue was purified by preparative TLC on 6 Analtech tapered silica gel plates (20×20 cm), which were developed in 95:5 CH2Cl2-MeOH. The product band from each plate was isolated, combined, and extracted with 95:5 CH2Cl2-MeOH. Concentration of the extracts in vacuo yielded 85.9 mg (82%) of a very pale yellow glass; virtually homogeneous by TLC in 95:5 CH2Cl2-MeOH. 506 MHz 1H NMR (CDCl3) was complex, owing to rotamers, but was consistent with the assigned structure. Mass spectrum (ESI): m/e=697.6 (M+H).

reactant | 2-[3-[2-[benzyloxycarbonyl-[4-(pyridin-3-yl)butyl]amino]ethyl]-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid | 0.15 mmol, 92.7 mg | C(C1=CC=CC=C1)OC(=O)N(CCC1=C(NC2=CC=C(C=C12)C(C(=O)O)(C)C)C1=CC(=CC(=C1)C)C)CCCCC=1C=NC=CC1 | C39H43N3O4
reactant | 7-azabicyclo[2.2.1]heptane hydrochloride | 0.6 mmol, 80.2 mg | Cl.C12CCC(CC1)N2
reactant | PyBOP | 0.16 mmol, 83.2 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.77 mmol, 0.107 mL, 77.8 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | methylene chloride | 0.75 mL | C(Cl)Cl | CH2Cl2
product | [2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxoethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-[4-(pyridin-3yl)butyl]carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CCCCC=1C=NC=CC1)CCC1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC1CC2)(C)C)C2=CC(=CC(=C2)C)C)=O | C45H52N4O3
